US07053212B2
Step A: (4-Iodo-phenyl)-[4-(tetrahydro-pyran-2-yloxy)-benzyl]-amine
To a solution of 4-(tetrahydro-pyran-2-yloxy)-benzaldehyde (9.07 g, 43.96 mmol) and 4-iodoaniline (8.87 g, 40.49 mmol) in 200 mL methylene chloride was added magnesium sulfate (26.7 g, 221.82 mmol). The reaction mixture was stirred at room temperature overnight. The reaction mixture was filtered through diatomaceous earth and the filtrate was concentrated. The residue was dissolved in 150 mL ethanol and 75 mL methanol and sodium borohydride (6 g, 158.60 mmol) was added in portions over a period of 2 hr. The reaction mixture was stirred at room temperature for an additional 2 hr. The reaction mixture was quenched with water and the aqueous solution was washed three times with methylene chloride. The combined organic extracts were dried (magnesium sulfate) and concentrated. Medium pressure silica gel chromatography (10% hexanes/ethyl acetate) followed by crystallization from methylene chloride/methanol afforded the title compound of Step A.

reactant | 4-(tetrahydro-pyran-2-yloxy)-benzaldehyde | 43.96 mmol, 9.07 g | O1C(CCCC1)OC1=CC=C(C=O)C=C1 | C12H14O3
reactant | 4-iodoaniline | 40.49 mmol, 8.87 g | IC1=CC=C(N)C=C1 | C6H6IN
reactant | magnesium sulfate | 221.82 mmol, 26.7 g | S(=O)(=O)([O-])[O-].[Mg+2]
reactant | sodium borohydride | 158.60 mmol, 6 g | [BH4-].[Na+]
solvent | methylene chloride | 200 mL | C(Cl)Cl | CH2Cl2
solvent | methanol | 75 mL | CO | CH4O
product | (4-Iodo-phenyl)-[4-(tetrahydro-pyran-2-yloxy)-benzyl]-amine | IC1=CC=C(C=C1)NCC1=CC=C(C=C1)OC1OCCCC1 | C18H20INO2
